US05360802
Step 4: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl] N'-[3(isopropylsulphonylaminocarbonyl)phenyl]urea
The title compound was prepared in the same way as that described in Example 11, Step 4, using 5-cyclohexyl-l,3-dihydro- 1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (0.3 g, 0.69 mmol), triethylamine (96 μl, 0.69 mmol), dimethylformamide (6 ml) and 1-(isopropylsulphonylaminocarbonyl)-3-aminobenzene (0.175 mg, 0.72 mmol). After recrystallisation from ethanol the title compound (0.24 g, 65%) was afforded as a colourless solid. mp 165° C. (dec.). 1H NMR (360 MHz, D6 -DMSO) δ 0.87-0.98 (1H, m), 1.10-1.64 (7H, m), 1.30 (6H, d, J=6.9 Hz), 1.79 (1H, m), 1.88-1.96 (1H, m), 2.95 (1H, m), 3.33 (3H, s), 3.79 (1H, septet, J=6.9 Hz), 5.07 (1H, d, J=8.2 Hz), 7.37 (3H, m), 7.46 (1H, d, J=7.8 Hz), 7.55 (2H, m), 7.64 (1H, dd, J=7.1 and 7.1 Hz), 7.75 (1H, d, J=7.9 Hz), 7.92 (1H,s), 9.22 (1H,s), 11.93 (1H, brs).

reactant | 5-cyclohexyl-l,3-dihydro- 1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 0.69 mmol, 0.3 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 0.69 mmol, 96 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(isopropylsulphonylaminocarbonyl)-3-aminobenzene | 0.72 mmol, 0.175 mg | C(C)(C)S(=O)(=O)NC(=O)C1=CC(=CC=C1)N | C10H14N2O3S
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl] N'-[3(isopropylsulphonylaminocarbonyl)phenyl]urea | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)NS(=O)(=O)C(C)C | C27H33N5O5S
